US04447435
8-Fluoro-4-hydroxyquinoline was reacted with formaldehyde in aqueous sodium hydroxide to give the novel compound 8-fluoro-4-hydroxy-3-hydroxymethylquinoline, m.p. 176°-178° (from dichloromethane).

reactant | 8-Fluoro-4-hydroxyquinoline | FC=1C=CC=C2C(=CC=NC12)O | C9H6FNO
reactant | formaldehyde | C=O | CH2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydroxide | [OH-].[Na+]
product | 8-fluoro-4-hydroxy-3-hydroxymethylquinoline | FC=1C=CC=C2C(=C(C=NC12)CO)O | C10H8FNO2
